US06376491B1
To a solution of 4-(3-(1-benzyl-piperidin-4-ylamino)-propoxy)-3-methyl-benzofuran-2-carboxylic acid ethyl ester (the compound in Example 100, 14 mg) in ethanol (3 ml) was added 5% Pd on charcoal catalyst (10 mg) under N2. The nitrogen atmosphere was replaced by hydrogen (1 atom) and the resulting mixture was stirred overnight at room temperature. The reaction mixture was filtered through a pad of celite and the pad of celite was rinsed with methanol and dichloromethane. The filtrate combined was concentrated in vacuo. The residue was purified by silica gel column chromatography (dichloromethane-MeOH) to give 4-[3-(1-ethyl-piperidin-4-ylamino)-propoxy]-3-methyl-benzofuran-2-carboxylic acid ethyl ester (5 mg) as a colorless oil. EI-MS: m/z 388 (M+); 1H-NMR (CDCl3): δ 1.13 (3H, t, J=7 Hz), 1.44 (3H, t, J=7 Hz), 1.54 (2H, m), 1.98-2.22 (6H, m), 2.53 (2H, q, J=7 Hz), 2.61 (1H, m), 2.74 (3H, s), 2.89 (2H, t, J=7 Hz), 3.02 (2H, m), 4.16 (2H, t, J=6 Hz), 4.44 (2H, q, J=7 Hz), 6.62 (1H, d, J=8 Hz), 7.12 (1H, d, J=8 Hz), 7.30 (1H, t, J=8 Hz).

reactant | 4-(3-(1-benzyl-piperidin-4-ylamino)-propoxy)-3-methyl-benzofuran-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)OCCCNC2CCN(CC2)CC2=CC=CC=C2 | C27H34N2O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 3 ml | C(C)O | C2H6O
catalyst | Pd on charcoal | 10 mg | [Pd] | Pd
product | 4-[3-(1-ethyl-piperidin-4-ylamino)-propoxy]-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 5 mg | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)OCCCNC2CCN(CC2)CC | C22H32N2O4
